US04904653
(a) 3-Bromo-8-phenyl-5,6,7,8-tetrahydro-6-trifluoroacetyl-4H-thieno[2,3-d]azepine
Trifluoroacetic anhydride (0.55 ml) was added dropwise to a stirred solution of 3-bromo-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride (0.90 g) and triethylamine (0.90 ml) in dichloromethane (20 ml) at room temperature under nitrogen. After 15 minutes water was added and the dichloromethane solution was washed with water (2×10 ml), dried, filtered and evaporated to give the trifluoroacylated product, m.p. 115°.

reactant | Trifluoroacetic anhydride | 0.55 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-bromo-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | 0.90 g | Cl.BrC1=CSC=2C(CNCCC21)C2=CC=CC=C2
reactant | triethylamine | 0.90 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Bromo-8-phenyl-5,6,7,8-tetrahydro-6-trifluoroacetyl-4H-thieno[2,3-d]azepine | BrC1=CSC=2C(CN(CCC21)C(C(F)(F)F)=O)C2=CC=CC=C2 | C16H13BrF3NOS
